US03993679
a. Diethyl N,N'-(m-phenylene)dioxamate
A mixture of m-phenylenediamine (10.8 grams) 0.10 ml.) and diethyl oxalate (50 ml.) is refluxed for 2.5 hours. The cooled reaction mixture is diluted with ether (200 ml.) and the crude product collected (19.2 grams, M.P. 150°C.). Two recrystallizations from methanol give off white crystals (6.65 grams, 155-160°).

reactant | m-phenylenediamine | 0.10 ml, 10.8 grams | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | diethyl oxalate | 50 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 200 ml | CCOCC | C4H10O
product | Diethyl N,N'-(m-phenylene)dioxamate | C1(=CC(=CC=C1)NC(C(=O)OCC)=O)NC(C(=O)OCC)=O | C14H16N2O6
